US04613680
Preparation of 3-methyl-2-butenyl angelate
A mixture of 19.6 g. of methyl angelate, 22.2 g. of 3-methyl-2-butenyl alcohol, 100 ml. of toluene and 1.6 g. of dioctyltin laurate was placed in a glass flask which was equipped with a Soxhlet extractor filled with molecular sieve 4A on the top and a reflux cooler. The mixture was heated under reflux while returning the refluxed liquid through the molecular sieve 4A to the flask. The mixture obtained from the heating for a total of 26 hours was subjected to single distillation to give 24.24 g. of a distillate boiling at 102°-105° C. (25 mmHg).

reactant | methyl angelate | C(\C(\C)=C/C)(=O)OC | C6H10O2
reactant | 3-methyl-2-butenyl alcohol | CC(=CCO)C | C5H10O
reactant | dioctyltin laurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCC)[Sn+2]CCCCCCCC.C(CCCCCCCCCCC)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-2-butenyl angelate | C(\C(\C)=C/C)(=O)OCC=C(C)C | C10H16O2
